US07468375B2
1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-1H-pyrazolo[3,4-c]pyridine-5-carboxamide
To a stirring solution of methyl 1H-pyrazolo[3,4-c]pyridine-5-carboxylate (100 mg, 0.351 mmol) in methanol (4 mL) was added a 3.0 M solution of LiOH in water (0.351 mL, 1.05 mmol) and the mixture was stirred overnight, then 1.0 M hydrochloric acid in diethyl ether was added (1.05 mL, 1.05 mmol) and the solvent was evaporated under reduced pressure. The crude solid was dissolved in DMF and N-methylhydroxylamine hydrochloride (58 mg, 0.698 mmol) was added followed by triethylamine (214 mL, 1.154 mmol) and HATU (266 mg, 0.698 mmol). The mixture was stirred overnight. Water was added and the mixture was extracted with dichloromethane (3×20 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated. The crude solid was dissolved in DMSO and purified by reverse phase preparative HPLC to provide a white solid (105 mg, 100% yield). 1H NMR (DMSO-d6): & 10.24 (bs, 1H), 9.26 (s, 1H), 8.07 (s, 1H), 7.37 (m, 2H), 7.15 (m, 2H), 5.81 (s, 2H), 3.31 (s, 3H). Anal. HPLC: >95% (@ 254, 222 nM). HRMS calcd for C15H13FN4O2 (M+H) 301.1088, found 301.1096.

reactant | methyl 1H-pyrazolo[3,4-c]pyridine-5-carboxylate | 0.351 mmol, 100 mg | N1N=CC=2C1=CN=C(C2)C(=O)OC | C8H7N3O2
reactant | LiOH | [Li+].[OH-]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
reactant | N-methylhydroxylamine hydrochloride | 0.698 mmol, 58 mg | Cl.CNO
reactant | triethylamine | 1.154 mmol, 214 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.698 mmol, 266 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methanol | 4 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | water | 1.05 mmol, 0.351 mL | O | H2O
product | 1-(4-Fluorobenzyl)-N-hydroxy-N-methyl-1H-pyrazolo[3,4-c]pyridine-5-carboxamide | 105 mg, 100% yield | FC1=CC=C(CN2N=CC=3C2=CN=C(C3)C(=O)N(C)O)C=C1 | C15H13FN4O2
